US07049307B2
2-(4-phenoxyphenyl)-N-[2-(2-pyrrolidin-1-ylethyl)-2H-indazol-5-yl]acetamide
A mixture of 2-(2-pyrrolidin-1-yl-ethyl)-2H-indazol-5-ylamine (56.0 mg, 0.243 mmol), (4-benzyloxy-phenyl)-acetic acid (60.0 mg, 0.248 mmol), ethyldimethypropylcarbodiimide hydrochloride (57.0 mg, 0.298 mmol), N-hydroxybenzotriazole (40.0 mg, 0.296 mmol), N-methylmorpholine (64.0 mg, 0.633 mmol) and 2 mL of N,N-dimethylformamide, were shaken for 6 hours. The solvents were removed under vacuo and the residue was dissolved in 1.5 mL of a 1:1 mixture of dimethylsulfoxide/methanol and purified by preparative reverse-phase HPLC. 1H NMR (300 MHz, DMSO-d6) ppm 1.82(m, 2H), 1.99 (m, 2H), 3.03(m, 2H), 3.52 (m, 2H), 3.64 (s, 2H), 3.80 (m, 2H), 4.78 (t, 2H, J=6.24), 6.97–7.00 (m, 4H), 7.12 (m, 1H), 7.29–7.39 (m, 5H), 7.59 (m, 1H), 8.18 (s, 1H), 8.38 (s, 1H), 10.13 (s, 1H); MS (DCI/NH3) m/z 441 [M+H]+.

reactant | 2-(2-pyrrolidin-1-yl-ethyl)-2H-indazol-5-ylamine | 0.243 mmol, 56.0 mg | N1(CCCC1)CCN1N=C2C=CC(=CC2=C1)N | C13H18N4
reactant | (4-benzyloxy-phenyl)-acetic acid | 0.248 mmol, 60.0 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(=O)O | C15H14O3
reactant | ethyldimethypropylcarbodiimide hydrochloride | 0.298 mmol, 57.0 mg | Cl.C(C)N=C=NC(CC)(C)C
reactant | N-hydroxybenzotriazole | 0.296 mmol, 40.0 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-methylmorpholine | 0.633 mmol, 64.0 mg | CN1CCOCC1 | C5H11NO
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 2-(4-phenoxyphenyl)-N-[2-(2-pyrrolidin-1-ylethyl)-2H-indazol-5-yl]acetamide | O(C1=CC=CC=C1)C1=CC=C(C=C1)CC(=O)NC1=CC2=CN(N=C2C=C1)CCN1CCCC1 | C27H28N4O2
